US08071592B2
(b) 1-{2-[(3S)-3-(Aminomethyl)-1-pyrrolidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one
To a solution of phenylmethyl [((3S)-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate (0.33 g, 0.761 mmol) in MeOH (30 mL) was added catalytic 10% Palladium on carbon (0.20 g) and the resulting solution was subjected to H2 at 50 PSI on a Parr shaker. The solution was filtered through a pad of Celite® and concentrated under reduced pressure to yield a colorless oil, (0.100 g, 43%).

reactant | phenylmethyl [((3S)-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 0.761 mmol, 0.33 g | COC1=CN=C2C=CC(N(C2=C1)CCN1C[C@@H](CC1)CNC(OCC1=CC=CC=C1)=O)=O | C24H28N4O4
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Palladium on carbon | 0.20 g | [Pd] | Pd
product | 1-{2-[(3S)-3-(Aminomethyl)-1-pyrrolidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one | NC[C@H]1CN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O | C16H22N4O2
